US07713996B2
4 4-{[1-(3-Trifluoromethyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid, MS (ISP): m/e=503.0 (M−H), was prepared in analogy to example 57, steps 1 to 6. Step 5 was performed using 3-trifluromethyl-benzenesulfonyl chloride, yielding 4-{[1-(3-trifluoromethyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid ethyl ester, which was hydrolyzed in step 6.

reactant | 4-{[1-(3-Trifluoromethyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid | FC(C=1C=C(C=CC1)S(=O)(=O)N1CCCC2=CC=C(C=C12)C(=O)NC1=CC=C(C(=O)O)C=C1)(F)F | C24H19F3N2O5S
reactant | 3-trifluromethyl-benzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 4-{[1-(3-trifluoromethyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C26H23F3N2O5S
